US08314087B2
To a 10 mL round bottomed flask was added 1-(2-hydroxyethyl)-5-phenylpyrimidin-2(1H)-one (0.043 g, 0.20 mmol), 4-chloro-7-methoxyquinoline (0.042 g, 0.22 mmol), toluene (2.0 mL) and cesium carbonate (0.071 g, 0.22 mmol). The reaction was carefully evacuated and then backfilled with N2. This was repeated twice. Then racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (0.020 g, 0.050 mmol) and palladium(II) acetate (0.0089 g, 0.040 mmol) were added. The reaction was again carefully evacuated and then backfilled with N2. This was repeated twice. The mixture was then heated at 80° C. for 3 h. After cooling to room temperature, the mixture was poured into aq. NaHCO3 (50 mL) and extracted with EtOAc (100 mL). This produced a bad emulsion so the mixture was filtered through Celite. The Celite plug was eluted with 10% MeOH/CH2Cl2 and the aqueous phase was extracted with 25% iPrOH/CHCl3. The EtOAc extract, MeOH/CH2Cl2 eluent and the iPrOH/CHCl3 extracts were combined, dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (0 to 1% MeOH (2M in NH3)/CH2Cl2 afforded 1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-5-phenylpyrimidin-2(1H)-one (0.023 g, 31% yield) as an off-white solid. MS (ESI, pos. ion.) m/z: 374 (MH+). Calc'd exact mass for C22H19N3O3: 373. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.87 (s, 3 H), 4.50 (t, J=4.8 Hz, 2 H), 4.59 (t, J=4.9 Hz, 2 H), 6.93 (d, J=5.3 Hz, 1 H), 7.02 (dd, J=9.2, 2.5 Hz, 1 H), 7.29 (d, J=2.5 Hz, 1 H), 7.37 (t, J=7.3 Hz, 1 H), 7.47 (t, J=7.6 Hz, 2 H), 7.60 (d, J=7.4 Hz, 2 H), 8.00 (d, J=9.2 Hz, 1 H), 8.63 (d, J=5.1 Hz, 1 H), 8.81 (d, J=3.5 Hz, 1 H), 8.97 (d, J=3.5 Hz, 1 H).

reactant | 1-(2-hydroxyethyl)-5-phenylpyrimidin-2(1H)-one | 0.20 mmol, 0.043 g | OCCN1C(N=CC(=C1)C1=CC=CC=C1)=O | C12H12N2O2
reactant | 4-chloro-7-methoxyquinoline | 0.22 mmol, 0.042 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | cesium carbonate | 0.22 mmol, 0.071 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.050 mmol, 0.020 g | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
catalyst | palladium(II) acetate | 0.040 mmol, 0.0089 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-5-phenylpyrimidin-2(1H)-one | 0.023 g, 31% yield | COC1=CC=C2C(=CC=NC2=C1)OCCN1C(N=CC(=C1)C1=CC=CC=C1)=O | C22H19N3O3
